US06863647B2
Preparation of 1-methyl-2-[(2-aminophenoxy)methyl]-1H-imidazole
A solution of 1.13 g of 1-methyl-2-[(2-nitrophenoxy)methyl]-1H-imidazole in 70 ml of methanol with 0.14 g of palladium on charcoal 10% was hydrogenated at 50 psi for 6 hours at room temperature. The catalyst was then separated by filtration and the solvent evaporated. The residue was finally purified by chromatography on a silica gel column (eluent: chloroform-methanol 48/2) giving rise 0.856 g of the title compound as a red oil.

reactant | 1-methyl-2-[(2-nitrophenoxy)methyl]-1H-imidazole | 1.13 g | CN1C(=NC=C1)COC1=C(C=CC=C1)[N+](=O)[O-] | C11H11N3O3
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium on charcoal | 0.14 g | [Pd] | Pd
product | 1-methyl-2-[(2-aminophenoxy)methyl]-1H-imidazole | 0.856 g | CN1C(=NC=C1)COC1=C(C=CC=C1)N | C11H13N3O
